US07781463B2
2-Benzoyl-4-(ethoxycarbonylmethyl)-1,2,4-thiadiazolidine-3,5-dione (Compound 47)
Reagents: Ethyl isothiocyanatoacetate (0.8 ml, 6.5 mmol), 35% HCl (3.1 ml), KMnO4 (0.5 g), benzoyl isocyanate (0.81 ml, 6.5 mmol).

reactant | Ethyl isothiocyanatoacetate | 6.5 mmol, 0.8 ml | N(=C=S)CC(=O)OCC | C5H7NO2S
reactant | HCl | 3.1 ml | Cl | ClH
reactant | KMnO4 | 0.5 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | benzoyl isocyanate | 6.5 mmol, 0.81 ml | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | 2-Benzoyl-4-(ethoxycarbonylmethyl)-1,2,4-thiadiazolidine-3,5-dione | C(C1=CC=CC=C1)(=O)N1SC(N(C1=O)CC(=O)OCC)=O | C13H12N2O5S
